US09024027B2
To a solution of benzyl 2-(5-(N-(2-(2-methoxyethylamino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.154 g, 0.315 mmol) in dry THF (2 ml), di-tert-butyl dicarbonate (0.103 g, 0.472 mmol) was added, and the mixture was stirred for 1 hour at room temperature. The solvent was evaporated to dryness, and the residue was diluted with ethyl acetate and washed with aqueous sat. NaHCO3. The organic phase was dried over Na2SO4 and the solvent was removed affording benzyl 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (0.166 g, 0.282 mmol, 89% yield). This product was used without any further purification.

reactant | benzyl 2-(5-(N-(2-(2-methoxyethylamino)ethyl)-methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.315 mmol, 0.154 g | COCCNCCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O | C23H27N3O7S
reactant | di-tert-butyl dicarbonate | 0.472 mmol, 0.103 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | benzyl 2-(5-(N-(2-(tert-butoxycarbonyl(2-methoxyethyl)amino)ethyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.282 mmol, 0.166 g, 89% yield | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C)C=1C=C2C(N(C(C2=CC1)=O)CC(=O)OCC1=CC=CC=C1)=O)CCOC | C28H35N3O9S
